US06642253B2
2b. 1-Amino-6-hydroxy-3-methyl-isoquinoline
Boron tribomide (4 mL) in 6 mL of dichloromethane was added dropwise to a stirred solution of 1-amino-6-methoxy-3-methylisoquinoline (2 g) in 10 mL of dichloromethane at 0° C. After stirring for 16 hours at ambient temperature the reaction mixture was poured on ice, the organic layer removed and the pH of the aqueous layer adjusted to pH 9 by adding concentrated aqueous ammonia. The precipitated material was collected by filtration and dried in vacuo to give 1.6 g of the title compound. ESI-MS: 175 (MH+).

reactant | Boron | [B] | B
reactant | 1-amino-6-methoxy-3-methylisoquinoline | 2 g | NC1=NC(=CC2=CC(=CC=C12)OC)C | C11H12N2O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-Amino-6-hydroxy-3-methyl-isoquinoline | 1.6 g | NC1=NC(=CC2=CC(=CC=C12)O)C | C10H10N2O
